Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Slurred speech, concern for vertebral artery dissection 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH HTN, HLD, prior stroke in ___ with right-sided
weakness who presents as a transfer from OSH due to concern for
right vertebral dissection.

Patient states that he has had 3 days of URI symptoms including
sweats, congestion, cough, sinus pressure, but denies taking any
medications for symptomatic relief. On ___ night, his right leg
was in pain so he slept in the chair upright after taking two
prescription pain killers (he does not know what they were). He
thinks he may have taken one this AM too. This morning, he
noticed that his speech was slightly off, which his wife noticed
as well. He did not have any trouble getting words out or
understanding but felt he wasn't as articulate as usual. He was
eating when he stood up from the table and fell backwards. He
denies head strike, LOC. His wife then called EMS and he went to
the OSH. Per patient, he does not think his symptoms were acute
or sudden in onset he does not feel far from his baseline (walks
with cane due to persistent weakness from prior stroke). He
denies any headache, neck pain, vertigo, double or blurry 
vision,
headache, incoordination, disequilibrium or unsteady gait. He
attributes his speech change to be due to his URI.

He endorses diaphoresis even at rest, which is unusual for him.

 
Past Medical History:
HTN
HLD
Stroke ___
PVD
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: T 98.1 BP 149/85 HR 70 RR 16 O2 sat 94% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted in
oropharynx.
Cardiac: RRR. Well perfused. 
Pulmonary: Breathing comfortably on room air.
Abdomen: Soft, NT/ND.  
Extremities: No cyanosis, clubbing, or edema bilaterally. 2+
radial, DP pulses.
Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There are no paraphasic errors.
Speech is mildly dysarthric. Able to follow both midline and
appendicular commands. Had good knowledge of current events.
There is no evidence of apraxia or neglect.

Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3 to 2mm and brisk. VFF to confrontation and no
extinction. 
 III, IV, VI: EOMI without nystagmus. Normal saccades.
 V: Facial sensation intact to light touch.
 VII: Left NLFF.
 VIII: Hearing grossly intact to speech.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes slightly to right midline but has good
excursions b/l.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. Mild intention tremor bilaterally. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc 
 L  5    ___   ___  5   5    5  5     5     
 R  5    ___   ___  5   5    5  5     5    

-Sensory: No deficits to gross touch throughout. No extinction 
to
DSS.

-DTRs:
  hyperreflexic throughout, no ankle clonus. Positive jaw jerk
 Plantar response was flexor bilaterally.

-Coordination: Intention tremor bilaterally. No dysmetria on 
FNF,
but had irregular cadence on finger taps bilaterally. Overshoot
with mirroring that improves after multiple attempts.

-Gait: deferred 

DISCHARGE EXAM:
===============
VS: Temp: 97.6 (Tm 98.2), BP: 128/74 (128-147/68-80), HR: 61
(58-72), RR: 18, O2 sat: 100% (95-100), O2 delivery: RA    

Exam:
General: Awake, cooperative, NAD. Sitting upright in bed.
HEENT: NC/AT, no scleral icterus noted, MMM.
Pulmonary: Normal work of breathing.
Extremities: No ___ edema. Chronic peripheral vascular disease 
changes noted. Sparse hair growth.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to converse without 
difficulty, attentive to exam.  Language is fluent though 
dysarthric with intact repetition and comprehension. Normal 
prosody. There were no paraphasic errors. Dysarthria has 
improved slightly compared to yesterday. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. 
V: Facial sensation intact to light touch.
VII: Left NLFF noted.
VIII: Hearing grossly intact.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline with good excursions 
bilaterally.

-Motor: Normal bulk and tone throughout. No pronator drift. No 
adventitious movements, such as tremor or asterixis noted. 
Orbits around the right arm.

  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5-   5    5    5   5    5-   5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. 

-Reflexes: Diffsely hyper-reflexic with crossed adductors 
bilaterally and sustained clonus at the left ankle.

-Coordination: Intention tremor present bilaterally. Irregular 
cadence on finger-tap bilaterally. No dysmetria on FNF.  

-Gait: Able to walk independently with rolling walker.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:12AM   GLUCOSE-91 UREA N-21* CREAT-1.1 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-23 ANION GAP-14
___ 09:12AM   ALT(SGPT)-9 AST(SGOT)-15 LD(LDH)-180 ALK 
PHOS-102 TOT BILI-0.4
___ 09:12AM   ALBUMIN-4.2
___ 09:12AM   TSH-2.8
___ 09:12AM   WBC-7.0 RBC-4.23* HGB-13.2* HCT-40.9 MCV-97 
MCH-31.2 MCHC-32.3 RDW-13.1 RDWSD-46.5*
___ 09:12AM   PLT COUNT-122*
___ 09:12AM   ___ PTT-26.8 ___
___ 05:37AM URINE  HOURS-RANDOM
___ 05:37AM URINE  UHOLD-HOLD
___ 05:37AM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 05:37AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 05:37AM URINE  RBC-2 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 05:37AM URINE  MUCOUS-FEW*
___ 01:21AM   LACTATE-1.1
___ 01:10AM   GLUCOSE-104* UREA N-21* CREAT-1.1 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-24 ANION GAP-13
___ 01:10AM   estGFR-Using this
___ 01:10AM   ALT(SGPT)-10 AST(SGOT)-14 ALK PHOS-110 TOT 
BILI-0.4
___ 01:10AM   LIPASE-17
___ 01:10AM   cTropnT-<0.01
___ 01:10AM   ALBUMIN-4.3 CALCIUM-9.1 PHOSPHATE-3.2 
MAGNESIUM-2.1 CHOLEST-141
___ 01:10AM   %HbA1c-5.3 eAG-105
___ 01:10AM   TRIGLYCER-90 HDL CHOL-48 CHOL/HDL-2.9 
LDL(CALC)-75
___ 01:10AM   WBC-7.3 RBC-4.43* HGB-14.0 HCT-42.8 MCV-97 
MCH-31.6 MCHC-32.7 RDW-13.1 RDWSD-46.6*
___ 01:10AM   NEUTS-66.0 ___ MONOS-9.0 EOS-1.2 
BASOS-0.4 IM ___ AbsNeut-4.82 AbsLymp-1.69 AbsMono-0.66 
AbsEos-0.09 AbsBaso-0.03
___ 01:10AM   PLT COUNT-131*
___ 01:10AM   ___ PTT-25.6 ___

IMAGING:
========
CXR ___:
The lungs are clear without focal consolidation.  No pleural 
effusion or 
pneumothorax is seen. The cardiac and mediastinal silhouettes 
are 
unremarkable. 
  
IMPRESSION: No acute cardiopulmonary process. 
  
MRI/MRA BRAIN ___:
1. Small acute/subacute infarcts involving the right corona 
radiata and 
subcortical white matter of the left temporal and right 
occipital lobes. 
2. Punctate chronic microhemorrhages in the peripheral left 
temporal and 
occipital lobes may be due to amyloid and left basal ganglia may 
be due to 
hypertensive etiologies.  No large intracranial hemorrhage or 
midline shift. 
3. Poorly visualized right vertebral artery responding to 
findings on prior CTA with high signal on T1 fat-sat which 
raises concern for dissection and potentially occlusion or 
severe stenosis which extends from the V2 through V4 segments 
with diminutive distal V4 segment suggesting patency at its 
intersection with the basilar artery. 
4. Patent circle of ___ and major tributaries as well as 
bilateral cervical carotid and left vertebral arteries without 
definite evidence of high-grade stenosis or occlusion. 

MRI CERVICAL SPINE ___:
1. Severe multilevel spondylosis, detailed above. 
2. Moderate spinal canal narrowing at C3-C4 and C4-C5 with cord 
remodeling but no definite abnormal cord signal. 
3. Multilevel severe and moderate to severe neuroforaminal 
narrowing at C3-C4, C4-C5, and C5-C6, detailed above. 
4. No focal or diffuse lesions are visualized throughout the 
cervical spinal cord. 

TTE ___:
The left atrial volume index is normal. There is no evidence of 
an atrial septal defect or patent foramen ovale by 2D/color 
Doppler or agitated saline at rest and with maneuvers. The 
estimated right atrial pressure is ___ mmHg. There is normal 
left ventricular wall thickness with a normal cavity size. There 
is normal regional and global left ventricular systolic 
function. No thrombus or mass is seen in the left ventricle. The 
visually
estimated left ventricular ejection fraction is >=55%. Left 
ventricular cardiac index is low normal (2.0-2.5 L/min/m2). 
There is no resting left ventricular outflow tract gradient. No 
ventricular septal defect is
seen. Mildly dilated right ventricular cavity with normal free 
wall motion. Tricuspid annular plane systolic excursion (TAPSE) 
is normal. The aortic sinus diameter is normal for gender with 
normal ascending aorta
diameter for gender. The aortic valve leaflets (3) are mildly 
thickened. There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets are mildly thickened 
with no mitral valve prolapse. There is mild [1+] mitral 
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. The pulmonary artery 
systolic pressure could not be estimated. There is no 
pericardial effusion.
IMPRESSION: No structural cardiac source of embolism (e.g.patent 
foramen ovale/atrial septal defect, intracardiac thrombus, or 
vegetation) seen. Normal left ventricular wall thickness and 
regional/global systolic function. Mildly dilated right 
ventricle with normal systolic function. Mild mitral 
regurgitation.

 
Brief Hospital Course:
PATIENT SUMMARY:
================
Mr. ___ is a ___ year old man with PMH significant for HTN, 
HLD, prior stroke in ___ with residual right-sided weakness who 
presented as a transfer from ___ with slurred 
speech and concern for right vertebral artery dissection. He was 
subsequently found to have acute right corona radiata and 
subacute small left subcortical parietal infarcts concerning for 
proximal source of embolism.

CTA head from ___ was notable for significant 
narrowing of the right vertebral artery though CTA of the neck 
was not obtained. He had MRA with contrast and fat sat sequences 
at ___ to better assess the vertebral arteries. This showed a 
poorly visualized right vertebral artery corresponding to 
findings on the prior CTA with high signal on T1 fat-sat which 
raised concern for dissection and potentially occlusion or 
severe stenosis which extends from the V2 through V4 segments 
with diminutive distal V4 segment suggesting patency at its 
intersection with the basilar artery. This was felt to be an 
incidental, likely chronic finding as the patient has had no 
neck or head pain and had no strokes in the distribution of the 
right vertebral artery on his subsequent MRI. MRA from ___ was 
reviewed and the patient had severe right vertebral stenosis at 
that time as well, indicating that this is a chronic as opposed 
to acute issue.

The MRI did, however, show acute right corona radiata and 
subacute small left subcortical parietal infarcts concerning for 
proximal source of embolism. He was monitored on telemetry 
though no atrial fibrillation was detected. He was discharged 
ultimately with a Ziopatch monitor to assess for occult atrial 
fibrillation. He also underwent TTE. This showed no intracardiac 
thrombus. Risk factor labs were notable for LDL 75, TSH 2.5, and 
hemoglobin A1c 5.3%. His atorvastatin was thus increased from 20 
to 40 mg QHS for goal LDL < 70. He was transitioned to aspirin 
81 mg daily (from 325 mg daily) and continued on Plavix 75 mg 
daily (following an initial Plavix load of ___ 
___. It was recommended that the patient continue on the 
Plavix indefinitely due to his symptomatic peripheral artery 
disease. 

The patient's neurological exam was most notable for dysarthria, 
diffuse hyper-reflexia, and a myelopathic gait. Out of concern 
for cervical myelopathy, he underwent MRI of the cervical spine. 
This revealed severe cervical spondylosis. It was felt that the 
patient's ongoing difficulty walking is multifactorial 
(peripheral artery disease, prior stroke, etc.) and at least 
partially attributable to the degree of cervical spine disease. 
He may benefit from outpatient follow up in the Spine Clinic. 
The phone number for the ___ was provided to the 
patient. 

TRANSITIONAL ISSUES:
====================
# Patient was discharged with Ziopatch monitor to assess for 
occult atrial fibrillation. Please follow up results as an 
outpatient.

# Consider outpatient referral to vascular surgeon. Patient 
complained of right leg claudication symptoms throughout this 
hospitalization and in the months prior to admission. He was 
continued on aspirin 81 mg daily and Plavix 75 mg daily 
indefinitely to help with his PAD rather than stroke reduction. 

# Consider outpatient referral to spine surgeon due to severe 
cervical spondylosis. He was provided a soft cervical collar 
while in house and given the number for the ___ at 
___.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
=
=
=
=
=
=
=
================================================================
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 75) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 20 mg PO QPM 
2. Vitamin D ___ UNIT PO DAILY 
3. Losartan Potassium 100 mg PO DAILY 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Sertraline 50 mg PO DAILY 
6. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
4.  Losartan Potassium 100 mg PO DAILY  
5.  Metoprolol Succinate XL 100 mg PO DAILY  
6.  Sertraline 50 mg PO DAILY  
7.  Vitamin D ___ UNIT PO DAILY  
8.Outpatient Physical Therapy
ICD-10: I63.9. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke
Peripheral artery disease
Cervical myelopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at ___ 
___.

You were hospitalized due to symptoms of slurred speech 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms, including slurred speech.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 
- High blood pressure
- High cholesterol
- Smoking
  
We are changing your medications as follows:  
 
- Your dose of aspirin has been reduced to 81 mg daily from 325 
mg daily
- We started a medication called Plavix to help reduce your risk 
of further strokes and improve the circulation in your legs
- Your dose of atorvastatin was increased from 20 mg daily to 40 
mg daily to help lower your cholesterol level

Please take your other medications as prescribed.  

Please follow up with neurology and your primary care physician 
as listed below. You may also consider going to see a spine 
doctor to be evaluated for possible surgery to help with the 
arthritis in your neck. If you would like to follow up at ___ 
___, please call ___.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___